US04536504
In 70 ml of pyridine were dissolved 18.3 g (70 mmol) of ethyl 5-fluoro-6-acetoxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate and 13.1 g (105 mmol) of (E)-5-methylfurfuraldoxime (containing 13% of the Z form), and 7.07 g (70 mmol) of triethylamine was added to the solution, followed by stirring at room temperature for 15 hours. The reaction solution was poured into 500 ml of ice-cooled water, and crystals precipitated were collected by filtration and washed with water. The crystals were dried under reduced pressure (P2O5) and recrystallized from 170 ml of ethanol to give 11.8 g of ethyl 5-fluoro-6-[(E)-5-methylfurfurylideneaminooxy]-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate. m.p. 181°-182° C.

reactant | ethyl 5-fluoro-6-acetoxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate | 70 mmol, 18.3 g | FC1(C(NC(NC1OC(C)=O)=O)=O)C(=O)OCC | C9H11FN2O6
reactant | (E)-5-methylfurfuraldoxime | 105 mmol, 13.1 g | CC1=CC=C(\C=N\O)O1 | C6H7NO2
reactant | triethylamine | 70 mmol, 7.07 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 5-fluoro-6-[(E)-5-methylfurfurylideneaminooxy]-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate | 11.8 g | FC1(C(NC(NC1O/N=C/C1=CC=C(O1)C)=O)=O)C(=O)OCC | C13H14FN3O6
